US07060844B2
A mixture of 5-hydroxyphthalide (1.0 g, 6.66 mmol), 4-(2-chloroethyl)-morpholine hydrochloride (1.49 g, 8.01 mmol), potassium carbonate (2.3 g, 16.6 mmol) and sodium iodide (1.0 g, 6.67 mmol) in ethanol (40 ml) was stirred at reflux under nitrogen for 18 hours. The mixture was cooled to room temperature, and filtered through celite. The filtrate solution was evaporated to dryness. The residue was partitioned between EtOAc (75 ml) and 2M HCl solution (50 ml). The organic layer was extracted with 2M HCl (2×30 ml). The aqueous layers were combined, basified with NaOH aqueous solution, and extracted with CHCl3 (3×50 ml). The organic layers were combined, dried over anhydrous Na2SO4, and evaporated to a light brown solid, which was triturated with CHCl3/Hexanes to give 5-(2-morpholin-4-yl-ethoxy)-3H-isobenzofuran-1-one as white crystals (1.43 g, 82%).

reactant | 5-hydroxyphthalide | 6.66 mmol, 1.0 g | OC=1C=C2COC(=O)C2=CC1 | C8H6O3
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | 8.01 mmol, 1.49 g | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 16.6 mmol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.67 mmol, 1.0 g | [I-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(2-morpholin-4-yl-ethoxy)-3H-isobenzofuran-1-one | 1.43 g, 82% | N1(CCOCC1)CCOC=1C=C2COC(C2=CC1)=O | C14H17NO4
